* sampler_core -- GENERATED by design/netlist.py from design/xschem/sampler_core.sch
* Do not edit by hand: `python3 design/netlist.py --check` fails if this
* file and the schematic disagree. Regenerate with `python3 design/netlist.py`.
** sch_path: sampler_core.sch
.subckt sampler_core en1 en2 vddr1 vddr2 vdd vss clk rst_n raw_bit raw_valid ring_bit1 ring_bit2
*.ipin en1
*.ipin en2
*.iopin vddr1
*.iopin vddr2
*.iopin vdd
*.iopin vss
*.ipin clk
*.ipin rst_n
*.opin raw_bit
*.opin raw_valid
*.opin ring_bit1
*.opin ring_bit2
xdut en1 en2 vddr1 vddr2 vdd vss xo ro1 ro2 ro_array_core
xsb xo clk rst_n raw_bit vdd vss sampler_dff
xsv vdd clk rst_n raw_valid vdd vss sampler_dff
xsr1 ro1 clk rst_n ring_bit1 vdd vss sampler_dff
xsr2 ro2 clk rst_n ring_bit2 vdd vss sampler_dff
.ends

* expanding   symbol:  ro_array_core.sym # of pins=9
** sym_path: ro_array_core.sym
** sch_path: ro_array_core.sch
.subckt ro_array_core en1 en2 vddr1 vddr2 vdd vss xo ro1 ro2
*.ipin en1
*.ipin en2
*.iopin vddr1
*.iopin vddr2
*.iopin vdd
*.iopin vss
*.opin xo
*.opin ro1
*.opin ro2
xr1 en1 rn1 vddr1 vss ro_ring11 wstv=0.42 lstv=2 cld=0.5f
xr2 en2 rn2 vddr2 vss ro_ring11 wstv=0.46 lstv=2 cld=0.5f
xb1 rn1 ro1 vdd vss ro_buf
xb2 rn2 ro2 vdd vss ro_buf
xa1 ro1 ro2 xo vdd vss xor2
.ends


* expanding   symbol:  sampler_dff.sym # of pins=6
** sym_path: sampler_dff.sym
** sch_path: sampler_dff.sch
.subckt sampler_dff d clk rst_n q vdd vss
*.ipin d
*.ipin clk
*.ipin rst_n
*.opin q
*.iopin vdd
*.iopin vss
XMpc clkb clk vdd vdd sky130_fd_pr__pfet_01v8 L=0.15 W=0.84 nf=1 ad=0.2436 as=0.2436 pd=2.26 ps=2.26
+ nrd=0.345238095238095 nrs=0.345238095238095 sa=0 sb=0 sd=0 mult=1 m=1
XMnc clkb clk vss vss sky130_fd_pr__nfet_01v8 L=0.15 W=0.42 nf=1 ad=0.1218 as=0.1218 pd=1.42 ps=1.42
+ nrd=0.69047619047619 nrs=0.69047619047619 sa=0 sb=0 sd=0 mult=1 m=1
XMtdp d clk m vdd sky130_fd_pr__pfet_01v8 L=0.15 W=0.84 nf=1 ad=0.2436 as=0.2436 pd=2.26 ps=2.26 nrd=0.345238095238095
+ nrs=0.345238095238095 sa=0 sb=0 sd=0 mult=1 m=1
XMtdn d clkb m vss sky130_fd_pr__nfet_01v8 L=0.15 W=0.42 nf=1 ad=0.1218 as=0.1218 pd=1.42 ps=1.42 nrd=0.69047619047619
+ nrs=0.69047619047619 sa=0 sb=0 sd=0 mult=1 m=1
XMimpa mb m vdd vdd sky130_fd_pr__pfet_01v8 L=0.15 W=0.84 nf=1 ad=0.2436 as=0.2436 pd=2.26 ps=2.26 nrd=0.345238095238095
+ nrs=0.345238095238095 sa=0 sb=0 sd=0 mult=1 m=1
XMimpb mb rst_n vdd vdd sky130_fd_pr__pfet_01v8 L=0.15 W=0.84 nf=1 ad=0.2436 as=0.2436 pd=2.26 ps=2.26
+ nrd=0.345238095238095 nrs=0.345238095238095 sa=0 sb=0 sd=0 mult=1 m=1
XMimna mb m mmid vss sky130_fd_pr__nfet_01v8 L=0.15 W=0.84 nf=1 ad=0.2436 as=0.2436 pd=2.26 ps=2.26
+ nrd=0.345238095238095 nrs=0.345238095238095 sa=0 sb=0 sd=0 mult=1 m=1
XMimnb mmid rst_n vss vss sky130_fd_pr__nfet_01v8 L=0.15 W=0.84 nf=1 ad=0.2436 as=0.2436 pd=2.26 ps=2.26
+ nrd=0.345238095238095 nrs=0.345238095238095 sa=0 sb=0 sd=0 mult=1 m=1
XMim2p mc mb vdd vdd sky130_fd_pr__pfet_01v8 L=0.15 W=0.84 nf=1 ad=0.2436 as=0.2436 pd=2.26 ps=2.26
+ nrd=0.345238095238095 nrs=0.345238095238095 sa=0 sb=0 sd=0 mult=1 m=1
XMim2n mc mb vss vss sky130_fd_pr__nfet_01v8 L=0.15 W=0.42 nf=1 ad=0.1218 as=0.1218 pd=1.42 ps=1.42 nrd=0.69047619047619
+ nrs=0.69047619047619 sa=0 sb=0 sd=0 mult=1 m=1
XMfmp mc clkb m vdd sky130_fd_pr__pfet_01v8 L=0.15 W=0.84 nf=1 ad=0.2436 as=0.2436 pd=2.26 ps=2.26 nrd=0.345238095238095
+ nrs=0.345238095238095 sa=0 sb=0 sd=0 mult=1 m=1
XMfmn mc clk m vss sky130_fd_pr__nfet_01v8 L=0.15 W=0.42 nf=1 ad=0.1218 as=0.1218 pd=1.42 ps=1.42 nrd=0.69047619047619
+ nrs=0.69047619047619 sa=0 sb=0 sd=0 mult=1 m=1
XMtsp mb clkb s vdd sky130_fd_pr__pfet_01v8 L=0.15 W=0.84 nf=1 ad=0.2436 as=0.2436 pd=2.26 ps=2.26 nrd=0.345238095238095
+ nrs=0.345238095238095 sa=0 sb=0 sd=0 mult=1 m=1
XMtsn mb clk s vss sky130_fd_pr__nfet_01v8 L=0.15 W=0.42 nf=1 ad=0.1218 as=0.1218 pd=1.42 ps=1.42 nrd=0.69047619047619
+ nrs=0.69047619047619 sa=0 sb=0 sd=0 mult=1 m=1
XMisp q s vdd vdd sky130_fd_pr__pfet_01v8 L=0.15 W=0.84 nf=1 ad=0.2436 as=0.2436 pd=2.26 ps=2.26 nrd=0.345238095238095
+ nrs=0.345238095238095 sa=0 sb=0 sd=0 mult=1 m=1
XMisn q s vss vss sky130_fd_pr__nfet_01v8 L=0.15 W=0.42 nf=1 ad=0.1218 as=0.1218 pd=1.42 ps=1.42 nrd=0.69047619047619
+ nrs=0.69047619047619 sa=0 sb=0 sd=0 mult=1 m=1
XMis2pa qb q vdd vdd sky130_fd_pr__pfet_01v8 L=0.15 W=0.84 nf=1 ad=0.2436 as=0.2436 pd=2.26 ps=2.26
+ nrd=0.345238095238095 nrs=0.345238095238095 sa=0 sb=0 sd=0 mult=1 m=1
XMis2pb qb rst_n vdd vdd sky130_fd_pr__pfet_01v8 L=0.15 W=0.84 nf=1 ad=0.2436 as=0.2436 pd=2.26 ps=2.26
+ nrd=0.345238095238095 nrs=0.345238095238095 sa=0 sb=0 sd=0 mult=1 m=1
XMis2na qb q s2mid vss sky130_fd_pr__nfet_01v8 L=0.15 W=0.84 nf=1 ad=0.2436 as=0.2436 pd=2.26 ps=2.26
+ nrd=0.345238095238095 nrs=0.345238095238095 sa=0 sb=0 sd=0 mult=1 m=1
XMis2nb s2mid rst_n vss vss sky130_fd_pr__nfet_01v8 L=0.15 W=0.84 nf=1 ad=0.2436 as=0.2436 pd=2.26 ps=2.26
+ nrd=0.345238095238095 nrs=0.345238095238095 sa=0 sb=0 sd=0 mult=1 m=1
XMfsp qb clk s vdd sky130_fd_pr__pfet_01v8 L=0.15 W=0.84 nf=1 ad=0.2436 as=0.2436 pd=2.26 ps=2.26 nrd=0.345238095238095
+ nrs=0.345238095238095 sa=0 sb=0 sd=0 mult=1 m=1
XMfsn qb clkb s vss sky130_fd_pr__nfet_01v8 L=0.15 W=0.42 nf=1 ad=0.1218 as=0.1218 pd=1.42 ps=1.42 nrd=0.69047619047619
+ nrs=0.69047619047619 sa=0 sb=0 sd=0 mult=1 m=1
.ends


* expanding   symbol:  ro_ring11.sym # of pins=4
** sym_path: ro_ring11.sym
** sch_path: ro_ring11.sch
.subckt ro_ring11 en ro vddr vss wstv=0.42 lstv=2 cld=0.5f
*.ipin en
*.opin ro
*.iopin vddr
*.iopin vss
xg ro en n1 vddr vss ro_nand2 wstv=wstv lstv=lstv cld=cld
x1 n1 n2 vddr vss ro_stage wstv=wstv lstv=lstv cld=cld
x2 n2 n3 vddr vss ro_stage wstv=wstv lstv=lstv cld=cld
x3 n3 n4 vddr vss ro_stage wstv=wstv lstv=lstv cld=cld
x4 n4 n5 vddr vss ro_stage wstv=wstv lstv=lstv cld=cld
x5 n5 n6 vddr vss ro_stage wstv=wstv lstv=lstv cld=cld
x6 n6 n7 vddr vss ro_stage wstv=wstv lstv=lstv cld=cld
x7 n7 n8 vddr vss ro_stage wstv=wstv lstv=lstv cld=cld
x8 n8 n9 vddr vss ro_stage wstv=wstv lstv=lstv cld=cld
x9 n9 n10 vddr vss ro_stage wstv=wstv lstv=lstv cld=cld
x10 n10 ro vddr vss ro_stage wstv=wstv lstv=lstv cld=cld
.ends


* expanding   symbol:  ro_buf.sym # of pins=4
** sym_path: ro_buf.sym
** sch_path: ro_buf.sch
.subckt ro_buf a y vdd vss
*.ipin a
*.opin y
*.iopin vdd
*.iopin vss
XMp y a vdd vdd sky130_fd_pr__pfet_01v8 L=0.15 W=0.84 nf=1 ad=0.2436 as=0.2436 pd=2.26 ps=2.26 nrd=0.345238095238095
+ nrs=0.345238095238095 sa=0 sb=0 sd=0 mult=1 m=1
XMn y a vss vss sky130_fd_pr__nfet_01v8 L=0.15 W=0.42 nf=1 ad=0.1218 as=0.1218 pd=1.42 ps=1.42 nrd=0.69047619047619
+ nrs=0.69047619047619 sa=0 sb=0 sd=0 mult=1 m=1
.ends


* expanding   symbol:  xor2.sym # of pins=5
** sym_path: xor2.sym
** sch_path: xor2.sch
.subckt xor2 a b y vdd vss
*.ipin a
*.ipin b
*.opin y
*.iopin vdd
*.iopin vss
XMpiA an a vdd vdd sky130_fd_pr__pfet_01v8 L=0.15 W=0.84 nf=1 ad=0.2436 as=0.2436 pd=2.26 ps=2.26 nrd=0.345238095238095
+ nrs=0.345238095238095 sa=0 sb=0 sd=0 mult=1 m=1
XMniA an a vss vss sky130_fd_pr__nfet_01v8 L=0.15 W=0.42 nf=1 ad=0.1218 as=0.1218 pd=1.42 ps=1.42 nrd=0.69047619047619
+ nrs=0.69047619047619 sa=0 sb=0 sd=0 mult=1 m=1
XMpiB bn b vdd vdd sky130_fd_pr__pfet_01v8 L=0.15 W=0.84 nf=1 ad=0.2436 as=0.2436 pd=2.26 ps=2.26 nrd=0.345238095238095
+ nrs=0.345238095238095 sa=0 sb=0 sd=0 mult=1 m=1
XMniB bn b vss vss sky130_fd_pr__nfet_01v8 L=0.15 W=0.42 nf=1 ad=0.1218 as=0.1218 pd=1.42 ps=1.42 nrd=0.69047619047619
+ nrs=0.69047619047619 sa=0 sb=0 sd=0 mult=1 m=1
XMp1 mid a vdd vdd sky130_fd_pr__pfet_01v8 L=0.15 W=1.68 nf=1 ad=0.4872 as=0.4872 pd=3.94 ps=3.94 nrd=0.172619047619048
+ nrs=0.172619047619048 sa=0 sb=0 sd=0 mult=1 m=1
XMp2 mid b vdd vdd sky130_fd_pr__pfet_01v8 L=0.15 W=1.68 nf=1 ad=0.4872 as=0.4872 pd=3.94 ps=3.94 nrd=0.172619047619048
+ nrs=0.172619047619048 sa=0 sb=0 sd=0 mult=1 m=1
XMp3 y an mid vdd sky130_fd_pr__pfet_01v8 L=0.15 W=1.68 nf=1 ad=0.4872 as=0.4872 pd=3.94 ps=3.94 nrd=0.172619047619048
+ nrs=0.172619047619048 sa=0 sb=0 sd=0 mult=1 m=1
XMp4 y bn mid vdd sky130_fd_pr__pfet_01v8 L=0.15 W=1.68 nf=1 ad=0.4872 as=0.4872 pd=3.94 ps=3.94 nrd=0.172619047619048
+ nrs=0.172619047619048 sa=0 sb=0 sd=0 mult=1 m=1
XMn1 y a s1 vss sky130_fd_pr__nfet_01v8 L=0.15 W=0.84 nf=1 ad=0.2436 as=0.2436 pd=2.26 ps=2.26 nrd=0.345238095238095
+ nrs=0.345238095238095 sa=0 sb=0 sd=0 mult=1 m=1
XMn2 s1 b vss vss sky130_fd_pr__nfet_01v8 L=0.15 W=0.84 nf=1 ad=0.2436 as=0.2436 pd=2.26 ps=2.26 nrd=0.345238095238095
+ nrs=0.345238095238095 sa=0 sb=0 sd=0 mult=1 m=1
XMn3 y an s2 vss sky130_fd_pr__nfet_01v8 L=0.15 W=0.84 nf=1 ad=0.2436 as=0.2436 pd=2.26 ps=2.26 nrd=0.345238095238095
+ nrs=0.345238095238095 sa=0 sb=0 sd=0 mult=1 m=1
XMn4 s2 bn vss vss sky130_fd_pr__nfet_01v8 L=0.15 W=0.84 nf=1 ad=0.2436 as=0.2436 pd=2.26 ps=2.26 nrd=0.345238095238095
+ nrs=0.345238095238095 sa=0 sb=0 sd=0 mult=1 m=1
.ends


* expanding   symbol:  ro_nand2.sym # of pins=5
** sym_path: ro_nand2.sym
** sch_path: ro_nand2.sch
.subckt ro_nand2 a en y vddr vss wstv=0.42 lstv=2 cld=0.5f
*.ipin a
*.ipin en
*.opin y
*.iopin vddr
*.iopin vss
XMph py vss vddr vddr sky130_fd_pr__pfet_01v8 L=lstv W=wstv nf=1 ad='int((1 + 1)/2) * wstv / 1 * 0.29'
+ as='int((1 + 2)/2) * wstv / 1 * 0.29' pd='2*int((1 + 1)/2) * (wstv / 1 + 0.29)'
+ ps='2*int((1 + 2)/2) * (wstv / 1 + 0.29)' nrd='0.29 / wstv ' nrs='0.29 / wstv ' sa=0 sb=0 sd=0 mult=1 m=1
XMpa y a py vddr sky130_fd_pr__pfet_01v8 L=0.15 W=0.84 nf=1 ad=0.2436 as=0.2436 pd=2.26 ps=2.26 nrd=0.345238095238095
+ nrs=0.345238095238095 sa=0 sb=0 sd=0 mult=1 m=1
XMpb y en py vddr sky130_fd_pr__pfet_01v8 L=0.15 W=0.84 nf=1 ad=0.2436 as=0.2436 pd=2.26 ps=2.26 nrd=0.345238095238095
+ nrs=0.345238095238095 sa=0 sb=0 sd=0 mult=1 m=1
XMna y a nm vss sky130_fd_pr__nfet_01v8 L=0.15 W=0.84 nf=1 ad=0.2436 as=0.2436 pd=2.26 ps=2.26 nrd=0.345238095238095
+ nrs=0.345238095238095 sa=0 sb=0 sd=0 mult=1 m=1
XMnb nm en ny vss sky130_fd_pr__nfet_01v8 L=0.15 W=0.84 nf=1 ad=0.2436 as=0.2436 pd=2.26 ps=2.26 nrd=0.345238095238095
+ nrs=0.345238095238095 sa=0 sb=0 sd=0 mult=1 m=1
XMnt ny vddr vss vss sky130_fd_pr__nfet_01v8 L=lstv W=wstv nf=1 ad='int((1 + 1)/2) * wstv / 1 * 0.29'
+ as='int((1 + 2)/2) * wstv / 1 * 0.29' pd='2*int((1 + 1)/2) * (wstv / 1 + 0.29)'
+ ps='2*int((1 + 2)/2) * (wstv / 1 + 0.29)' nrd='0.29 / wstv ' nrs='0.29 / wstv ' sa=0 sb=0 sd=0 mult=1 m=1
Cld y vss 'cld' m=1
.ends


* expanding   symbol:  ro_stage.sym # of pins=4
** sym_path: ro_stage.sym
** sch_path: ro_stage.sch
.subckt ro_stage a y vddr vss wstv=0.42 lstv=2 cld=0.5f
*.ipin a
*.opin y
*.iopin vddr
*.iopin vss
XMph py vss vddr vddr sky130_fd_pr__pfet_01v8 L=lstv W=wstv nf=1 ad='int((1 + 1)/2) * wstv / 1 * 0.29'
+ as='int((1 + 2)/2) * wstv / 1 * 0.29' pd='2*int((1 + 1)/2) * (wstv / 1 + 0.29)'
+ ps='2*int((1 + 2)/2) * (wstv / 1 + 0.29)' nrd='0.29 / wstv ' nrs='0.29 / wstv ' sa=0 sb=0 sd=0 mult=1 m=1
XMp y a py vddr sky130_fd_pr__pfet_01v8 L=0.15 W=0.84 nf=1 ad=0.2436 as=0.2436 pd=2.26 ps=2.26 nrd=0.345238095238095
+ nrs=0.345238095238095 sa=0 sb=0 sd=0 mult=1 m=1
XMn y a ny vss sky130_fd_pr__nfet_01v8 L=0.15 W=0.42 nf=1 ad=0.1218 as=0.1218 pd=1.42 ps=1.42 nrd=0.69047619047619
+ nrs=0.69047619047619 sa=0 sb=0 sd=0 mult=1 m=1
XMnt ny vddr vss vss sky130_fd_pr__nfet_01v8 L=lstv W=wstv nf=1 ad='int((1 + 1)/2) * wstv / 1 * 0.29'
+ as='int((1 + 2)/2) * wstv / 1 * 0.29' pd='2*int((1 + 1)/2) * (wstv / 1 + 0.29)'
+ ps='2*int((1 + 2)/2) * (wstv / 1 + 0.29)' nrd='0.29 / wstv ' nrs='0.29 / wstv ' sa=0 sb=0 sd=0 mult=1 m=1
Cld y vss 'cld' m=1
.ends
